datasets/10k_Mayr_OG.csv
SMILES Labelled
"COC1=CC=CC(OC)=C1[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C)C=C1.[CH:10]1=[CH:11][CH:12]=[C:13]2[C:14]1=[CH:15][CH:66]=[CH:67][CH:68]=[CH:69]2>>COC1=CC=CC(OC)=C1[N+]1=C([C:22](=[CH:21][CH:20]([CH:10]2[CH:11]=[CH:12][C:13]3=[C:14]2[CH+:15][CH:66]=[CH:67][CH:68]=[CH:69]3)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C)C=C1 10,11=10,20;12,13=11,12;14,15=13,14;20,21=21,22;22,23=23"
"CC1=CC=[C:10]([B-:11]2(C3=CC=CC=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1.C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=CC=C2)=[O+:12]1.CC1=CC=[C:10]([CH:20]([C:31]2=[CH:32][CH:33]=[C:34]([N:37](C)C)[CH:35]=[CH:36]2)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)S1 10,11=10,20;12=11,12"
CC[O:82][C:71]([C-:10](C(C)C)[C:61](=[O:62])[O:112]CC)=[O:72].CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]2[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1>>CC[O:82][C:71]([C:10](C(C)C)([C:20]1([C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:35]=[CH:36]2)[C:41]2=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]2)[C:52]2=[C:51]1[CH:56]=[CH:55][CH:54]=[CH:53]2)[C:61](=[O:62])[O:112]CC)=[O:72] 10=20
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:41]1=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]1)[C:22]2=[O:23].CC1=CC=C([S:63]([N:12](CC2=CC=CC=C2)[C:11]#[C:10]C2=CC=CC=C2)(=[O:64])=[O:74])C=C1>>CC1=CC=C([S:63]([N+:12](CC2=CC=CC=C2)=[C:11]=[C:10](C2=CC=CC=C2)[CH:20]([C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)(=[O:64])=[O:74])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1.[CH:10](=[N+:11]([O-:12])[O-:62])[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:86])[CH:82]=[CH:83]1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]([N+:11](=[O:12])[O-:62])[C:71]2=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:86])[CH:82]=[CH:83]2)[C:21]2=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
F[C:43]1=[CH:44][CH:45]=[CH:46][C:41]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:42]1.N#CC1=CC=C([N+:61]#[C-:10])C=C1>>N#CC1=CC=C([N+:61]#[C:10][C:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)C=C1 10=20
"C1C[C:20](=[O:21])CCO1.CN1CCCC1[C:62]1=[CH:63][CH:72]=[CH:71][N:10]=[CH:61]1>>CN1CCCC1[C:62]1=[CH:63][CH:72]=[CH:71][N+:10]([C:20]2([O-:21])CCOCC2)=[CH:61]1 10=20;20,21=21"
"C[N:51]1C(=O)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23].[CH:10](=[C:11]=[N-:12])[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1>>C[N:51]1C(=O)[N:52](C)[C:32](=[O:33])[C:21]([CH:20]([CH:10]([C:11]#[N:12])[N+:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]1[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[N:72](CC)[C:61]([CH-:10][C:81](C)=[O:82])=[O:62].C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1>>CC[N:72](CC)[C:61]([CH:10]([CH:20]([N:21](C)C)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1)[C:81](C)=[O:82])=[O:62] 10=20;20,21=21"
CCCC[NH2:10].[C+:20]1([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]2)[C:52]2=[C:51]1[CH:56]=[CH:55][CH:54]=[CH:53]2>>CCCC[NH2+:10][C:20]1([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]2)[C:52]2=[C:51]1[CH:56]=[CH:55][CH:54]=[CH:53]2 10=20
"Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.O=C(OCC1=CC=CC=C1)[NH:12][C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>O=C(OCC1=CC=CC=C1)[NH+:12]=[C:11]([CH2:10][CH:20]([C:31]1=[CH:32][CH:33]=[C:34](Cl)[CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]1)[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1 10,11=10,20;12=11,12"
"CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1.C[C:11]([H:10])([CH:12]=[CH2:13])[CH:72]=[CH2:73]>>CC1=CC=C([S:32]([N-:21][CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1.C[C:11](=[CH:12][CH2+:13])[CH:72]=[CH2:73] 10,11=10,20;12,13=11,12;20,21=21"
C1C[N:10]2CCC1CC2.C[O:37][C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>C[O:37][C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N+:10]23CCC(CC2)CC3)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10=20
